US05420126
To a mixture of 10 g of 2-nitro-4-trifluoromethylphenol, 8.0 g of anhydrous calcium carbonate and 30 ml of N,N-dimethylformamide was added dropwise a solution of 8.8 g of 2-bromoisobutyraldehyde in 23 ml of N,N-dimethylformamide and the mixture was stirred at room temperature for 4 days. The reaction mixture was then poured in ice-water and extracted with toluene. The organic layer was washed with 0.5 N aqueous sodium hydroxide solution and water in that order and dried over anhydrous magnesium sulfate and the solvent was distilled off. The residue was chromatographed on a silica gel column and elution was carried out with hexane-ethyl acetate (3:1). The Crystals from the eluate were recrystallized from 15 ml of hexane twice to give 4.428 g of 2-(2-nitro-4-trifluoromethylphenoxy)isobutyraldehyde.

reactant | 2-nitro-4-trifluoromethylphenol | 10 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)O | C7H4F3NO3
reactant | calcium carbonate | 8.0 g | C([O-])([O-])=O.[Ca+2]
reactant | 2-bromoisobutyraldehyde | 8.8 g | BrC(C=O)(C)C | C4H7BrO
solvent | N,N-dimethylformamide | 23 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(2-nitro-4-trifluoromethylphenoxy)isobutyraldehyde | 4.428 g | [N+](=O)([O-])C1=C(OC(C=O)(C)C)C=CC(=C1)C(F)(F)F | C11H10F3NO4
